US07425640B2
5-Benzenesulfonylamino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide
5-Amino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide (40 mg, 0.067 mmol) was dissolved in 1 ml of dry pyridine. Benzenesulfonyl chloride (0.0085 ml) was added and the reaction mixture stirred for 1 hour. The mixture was added to brine and extracted with dichloromethane. The dichloromethane extract was dried over magnesium sulfate, filtered. 29 mg of title compound was obtained after preparative thin layer chromatography using 50% ethyl acetate/hexanes as the eluent. ESI M+1=700.

reactant | 5-Amino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide | 0.067 mmol, 40 mg | C(C1=CC=CC=C1)OC1C(CCCC1)NC(=O)C=1N(N=C(C1)N)CC(NC1C(CCCC1)OCC1=CC=CC=C1)=O | C32H41N5O4
reactant | Benzenesulfonyl chloride | 0.0085 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | brine | [Cl-].[Na+].O
product | 5-Benzenesulfonylamino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide | 29 mg | C(C1=CC=CC=C1)OC1C(CCCC1)NC(=O)C=1N(N=C(C1)NS(=O)(=O)C1=CC=CC=C1)CC(NC1C(CCCC1)OCC1=CC=CC=C1)=O | C38H45N5O6S
